### PR TITLE
Root-coefficients relations

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Adds the root-coefficients relations for polynomials (with minor bigop lemmas)

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/poly.v [hunk 1]
```diff
@@ -1,7 +1,7 @@
 (* (c) Copyright 2006-2016 Microsoft Corporation and Inria.                  *)
 (* Distributed under the terms of CeCILL-B.                                  *)
 From mathcomp Require Import ssreflect ssrbool ssrfun eqtype ssrnat seq choice.
-From mathcomp Require Import fintype bigop div ssralg countalg binomial tuple.
+From mathcomp Require Import fintype bigop finset div ssralg countalg binomial tuple.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:4]:
```suggestion
From mathcomp Require Import fintype bigop finset tuple.
From mathcomp Require Import div ssralg countalg binomial.
```
(to enforce the 80 chars limit)

File: mathcomp/algebra/poly.v [hunk 2]
```diff
@@ -655,6 +655,8 @@ Qed.
 
 Canonical coefp0_rmorphism := AddRMorphism coefp0_multiplicative.
 
+
+
```
Comment (proux01) [inline mathcomp/algebra/poly.v:659]: Spurious newlines (please remove them)

File: mathcomp/algebra/poly.v [hunk 3]
```diff
@@ -2380,6 +2382,70 @@ Canonical polynomial_algType :=
...
+transitivity (\sum_(I in {set 'I_(size ps)}) if #|I| == (size ps - n)%N then \prod_(i < size ps | i \in I) - (tnth (Tuple (eqxx (size ps))) i) else 0).
+  apply eq_bigr => I _.
+  rewrite big_if/= big_const iter_mulr_1.
+  rewrite -(rmorph_prod (@polyC_rmorphism R))/= coefCM coefXn.
+  rewrite -[#|I| == _](eqn_add2l n) addnBA// [(_ + (size ps))%N]addnC -addnBA// subnn addn0 [(n + _)%N]addnC.
+  rewrite -[in X in _ = if _ == X then _ else _](card_ord (size ps)) -(cardC I) eqn_add2l.
+  by case: (n == #|[predC I]|); rewrite ?mulr1 ?mulr0.
+rewrite -big_mkcond mulr_sumr/=; apply eq_bigr => I /eqP cardI.
+rewrite prodrN cardI; congr GRing.mul; apply eq_bigr => i _.
+by rewrite (tnth_nth (GRing.zero R)) -psE.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2407]:
```suggestion
under eq_bigr => i _ do rewrite addrC -raddfN/=.
rewrite -{1}(in_tupleE ps) -(map_tnth_enum (_ ps)) big_map.
rewrite enumT bigA_distr_bigA2 /= coef_sum.
transitivity (\sum_(I in {set 'I_(size ps)}) if #|I| == (size ps - n)%N then
                  \prod_(i < size ps | i \in I) - ps`_i else 0).
  apply eq_bigr => I _.
  rewrite big_if/= big_const iter_mulr_1 -rmorph_prod/= coefCM coefXn.
  under eq_bigr => i _ do rewrite (tnth_nth 0)/=.
  rewrite -[#|I| == _](eqn_add2r n) subnK//.
  rewrite -[X in (_ + _)%N == X]card_ord -(cardC I) eqn_add2l.
  by case: ifP; rewrite ?mulr1 ?mulr0.
by rewrite -big_mkcond mulr_sumr/=; apply: eq_bigr => I /eqP <-; rewrite prodrN.
```

File: mathcomp/algebra/poly.v [hunk 4]
```diff
@@ -2380,6 +2382,70 @@ Canonical polynomial_algType :=
...
+transitivity (\sum_(I in imset f (mem setT)) \prod_(i in I) ps`_i).
+  apply congr_big=>// I /=.
+  apply/cards1P/imsetP.
+    by move=>[a ->]; exists a.
+  by move=>[a _ ->]; exists a.
+rewrite big_imset/=; last by move=> i j _ _; rewrite/f => ij; apply/set1P; rewrite -ij set11.
+have psE: ps = tval (Tuple (eqxx (size ps))) by [].
+rewrite [in RHS]psE -(map_tnth_enum (Tuple _)) big_map enumT.
+apply congr_big => // i; first by rewrite in_setT.
+by move=>_; rewrite big_set1 (tnth_nth (GRing.zero R)) -psE.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2429]:
```suggestion
rewrite coef_prod_XsubC ?leq_pred// => ps0.
have -> : (size ps - (size ps).-1 = 1)%N.
  by move: ps0; case: (size ps) => // n _; exact: subSnn.
rewrite expr1 mulN1r; congr GRing.opp.
set f : 'I_(size ps) -> {set 'I_(size ps)} := fun a => [set a].
transitivity (\sum_(I in imset f (mem setT)) \prod_(i in I) ps`_i).
  apply: congr_big => // I /=.
  by apply/cards1P/imsetP => [[a ->] | [a _ ->]]; exists a.
rewrite big_imset/=; last first.
  by move=> i j _ _ ij; apply/set1P; rewrite -/(f j) -ij set11.
rewrite -[in RHS](in_tupleE ps) -(map_tnth_enum (_ ps)) big_map enumT.
apply: congr_big => // i; first exact: in_setT.
by rewrite big_set1 (tnth_nth 0).
```

File: mathcomp/algebra/poly.v [hunk 5]
```diff
@@ -2380,6 +2382,70 @@ Canonical polynomial_algType :=
...
+transitivity (\sum_(I in [set setT : {set 'I_(size ps)}]) \prod_(i in I) ps`_i).
+  apply congr_big=>// i/=.
+  apply/idP/set1P.
+    by move=>/eqP cardE; apply/eqP; rewrite eqEcard subsetT cardsT card_ord cardE leqnn.
+  by move=>->; rewrite cardsT card_ord.
+rewrite big_set1.
+have psE: ps = tval (Tuple (eqxx (size ps))) by [].
+rewrite [in RHS]psE -(map_tnth_enum (Tuple _)) big_map enumT.
+apply congr_big => // i; first by rewrite in_setT.
+by move=>_; rewrite (tnth_nth (GRing.zero R)) -psE.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2446]:
```suggestion
rewrite coef_prod_XsubC// subn0; congr GRing.mul.
transitivity (\sum_(I in [set setT : {set 'I_(size ps)}]) \prod_(i in I) ps`_i).
  apply: congr_big =>// i/=.
  apply/idP/set1P => [/eqP cardE | ->]; last by rewrite cardsT card_ord.
  by apply/eqP; rewrite eqEcard subsetT cardsT card_ord cardE leqnn.
rewrite big_set1 -[in RHS](in_tupleE ps) -(map_tnth_enum (_ ps)) big_map enumT.
apply: congr_big => // i; first exact: in_setT.
by rewrite (tnth_nth 0).
```

File: mathcomp/ssreflect/bigop.v [hunk 6]
```diff
@@ -1946,6 +1946,15 @@ Lemma bigID I r (a P : pred I) F :
...
 Arguments bigID [I r].
 
+Lemma big_if I r (P Q : pred I) (F G : I -> R) :
+  \big[*%M/1]_(i <- r | P i) (if Q i then F i else G i) =
+    \big[*%M/1]_(i <- r | P i && Q i) F i *
+    \big[*%M/1]_(i <- r | P i && ~~ Q i) G i.
+Proof.
+rewrite (bigID Q); congr  (_ * _); apply eq_bigr => i /andP[_]; first by move=>->.
+by move=>/negPf ->.
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/bigop.v:1956]:
```suggestion
Lemma big_if I r (P Q : pred I) F G :
  \big[*%M/1]_(i <- r | P i) (if Q i then F i else G i) =
    \big[*%M/1]_(i <- r | P i && Q i) F i *
    \big[*%M/1]_(i <- r | P i && ~~ Q i) G i.
Proof.
rewrite (bigID Q); congr (_ * _); apply: eq_bigr => i /andP[_].
  by move=> ->.
by move=> /negPf ->.
Qed.
```

File: mathcomp/ssreflect/finset.v [hunk 7]
```diff
@@ -1494,12 +1494,31 @@ Proof. by apply: partition_big => i Ai; apply/imsetP; exists i. Qed.
...
+set f := fun J : {set I} => val J.
+transitivity (\big[plus/zero]_(f0 in (imset f (mem setT))) \big[times/one]_i (if f0 i then F i else G i)).
+  suff <-: setT = imset f (mem setT) by apply congr_big=>// i; rewrite in_setT.
+  apply/esym/eqP; rewrite -subTset; apply/subsetP => b _.
+  by apply/imsetP; exists (FinSet b).
+rewrite big_imset; last by case => g; case => h _ _; rewrite /f/= => ->.
+apply congr_big=>//; case => g; first by rewrite in_setT.
+move=>_; apply eq_bigr => i _; congr (if _ then _ else _).
+by rewrite SetDef.pred_of_setE.
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/finset.v:1513]:
```suggestion
Lemma bigA_distr (R : Type) (zero one : R) (mul : Monoid.mul_law zero)
  (add : Monoid.add_law zero mul) (I : finType) (F G : I -> R) :
  \big[mul/one]_i add (F i) (G i) =
  \big[add/zero]_(J in {set I}) \big[mul/one]_i (if i \in J then F i else G i).
Proof.
under eq_bigr => i _ do rewrite -(big_bool _ (fun b => if b then F i else G i)).
rewrite bigA_distr_bigA.
set f := fun J : {set I} => val J.
transitivity (\big[add/zero]_(f0 in (imset f (mem setT)))
                \big[mul/one]_i (if f0 i then F i else G i)).
  suff <-: setT = imset f (mem setT) by apply: congr_big=>// i; rewrite in_setT.
  apply/esym/eqP; rewrite -subTset; apply/subsetP => b _.
  by apply/imsetP; exists (FinSet b).
rewrite big_imset; last by case=> g; case=> h _ _; rewrite /f => /= ->.
apply: congr_big => //; case=> g; first exact: in_setT.
move=> _; apply: eq_bigr => i _; congr (if _ then _ else _).
by rewrite SetDef.pred_of_setE.
Qed.
```

File: mathcomp/ssreflect/finset.v [hunk 8]
```diff
@@ -1494,12 +1494,31 @@ Proof. by apply: partition_big => i Ai; apply/imsetP; exists i. Qed.
...
+
 Arguments big_setID [R idx aop I A].
 Arguments big_setD1 [R idx aop I] a [A F].
 Arguments big_setU1 [R idx aop I] a [A F].
 Arguments big_imset [R idx aop I J h A].
 Arguments partition_big_imset [R idx aop I J].
 
+
```
Comment (proux01) [inline mathcomp/ssreflect/finset.v:1521]: Spurious newline

**Review by proux01 — APPROVED** [review]
Thanks for your contribution!
A few nitpicking comments. Also note that the changelog seems to have experienced some rebase hickup.
I'll merge next week if those are adressed and there is no further comment.
